US04010267
A solution of 8.5 g (0.0344 mole) of 5-chloromethyl-2-phenyl benzo [d]-1,3-dioxole (BP/0.05 mm = 135°-137° C) and 11.3 g (0.0689 mole) of 1-(2-pyrimidinyl) piperazine in 250 ml of anhydrous xylene was refluxed for 9 hours. The precipitate of 1-(2-pyrimidinyl) piperazine hydrochloride formed was suction-filtered off and the xylene was evaporated off under reduced pressure.

reactant | 5-chloromethyl-2-phenyl benzo [d]-1,3-dioxole | 0.0344 mole, 8.5 g | ClCC1=CC2=C(OC(O2)C2=CC=CC=C2)C=C1 | C14H11ClO2
reactant | 1-(2-pyrimidinyl) piperazine | 0.0689 mole, 11.3 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2-pyrimidinyl) piperazine hydrochloride | Cl.N1=C(N=CC=C1)N1CCNCC1 | InChI=1S/C8H12N4.ClH/c1-2-10-8(11-3-1)12-6-4-9-5-7-12;/h1-3,9H,4-7H2;1H
